US09024034B2
Synthesis of Compound A: N-methyl-N′-mesityl-1,2-ethylenediamine
In a 100 mL round-bottom flask tris(dibenzylideneacetone)dipalladium(0) (Pd2(dba)3) (110 mg, 0.120 mmol) and (±)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthalene ((±)-BINAP) (230 mg, 0.37 mmol) were added to 25 mL toluene and stirred for 20 minutes. Next, 2-bromomesitylene (2.45 g, 12.3 mmol), N-methylethylenediamine (1.01 g, 13.6 mmol) and sodium t-butoxide (NaOtBu) (3.56 g, 37 mmol) were added along with 25 mL toluene. This was stirred for 72 hours at 80° C. The flask was then removed from heat, cooled to room temperature and diluted with 20 mL diethyl ether. The solution was then washed with 5×30 mL water and 3×15 mL brine, and dried over magnesium sulfate. After filtering and vacuum removal of solvent, a dark red oil was recovered and used without further purification.

reactant | (±)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthalene | 0.37 mmol, 230 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 2-bromomesitylene | 12.3 mmol, 2.45 g | BrC1=C(C=C(C=C1C)C)C | C9H11Br
reactant | N-methylethylenediamine | 13.6 mmol, 1.01 g | CNCCN | C3H10N2
reactant | sodium t-butoxide | 37 mmol, 3.56 g | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.120 mmol, 110 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | N-methyl-N′-mesityl-1,2-ethylenediamine | CNCCNC1=C(C=C(C=C1C)C)C | C12H20N2
